US07105507B2
(RS)-α-Methyl-3,5-bis(trifluoromethyl)benzeneacetic Acid
Dicyclohexylammonium (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetate (Description 32, 31.13 g, 67 mmol) was suspended in ethyl acetate, washed with aqueous citric acid (25%) and water, dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (19.0 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.81 (1H, s), 7.78 (2H, s), 3.90 (1H, q, J 7.2 Hz), and 1.60 (3H, d, J 7.2 Hz).

reactant | Dicyclohexylammonium (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetate | 67 mmol, 31.13 g | CC(C(=O)[O-])C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F.C1(CCCCC1)[NH2+]C1CCCCC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-α-Methyl-3,5-bis(trifluoromethyl)benzeneacetic Acid | 19.0 g, 100% | CC(C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H8F6O2
